US05275816
(a) Diphenylmethyl 7β-Amino-7α-formamido-3-methylenecepham-4-carboxylate
Powdered ammonium chloride (1.25 g) and powdered thiourea (0.5 g) were added to a solution of diphenylmethyl 7β-amino-7α-formamido-3-[(1,3,4-thiadiazol-2- yl)thiomethyl]ceph-3-em-4-carboxylate in N,N-dimethylformamide (20 ml) at ca. -10° C. (ice/acetone bath) with stirring. After 5 min activated (freshly acid washed) zinc powder (1.5 g) was added in four portions over 3 min. After 25 min the mixture was filtered through Kieselguhr and the residue washed with ethyl acetate and water. Ethyl acetate (100 ml) and water (100 ml) was added to the combined filtrate and washings. The organic phase was separated and the aqueous phase re-extracted with ethyl acetate (50 ml). The combined organic extracts were washed with water (×5), then brine (×1), and dried over anhydrous magnesium sulphate, filtered and the filtrate evaporated. Purification by silica gel chromatography eluting with ethyl acetate/n-hexane furnished the title compound as a white foam (0.744 g; containing ca. 10% diphenylmethyl 7 β-amino-7α-formamido-3-methylceph-3-em).

reactant | ammonium chloride | 1.25 g | [Cl-].[NH4+]
reactant | thiourea | 0.5 g | NC(=S)N | CH4N2S
reactant | diphenylmethyl 7β-amino-7α-formamido-3-[(1,3,4-thiadiazol-2- yl)thiomethyl]ceph-3-em-4-carboxylate | N[C@]1([C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)NC=O | C24H21N5O4S3
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Diphenylmethyl 7β-Amino-7α-formamido-3-methylenecepham-4-carboxylate | 0.744 g, ca. 10% | N[C@]1([C@@H]2N(C(C(CS2)=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)NC=O | C22H21N3O4S
